US06063810
0.7 g (7.92 mmol) of manganese dioxide is added to a solution of 0.38 g (1.58 mmol) of 2-hydroxymethyl-3-methyl-7-bromobenzofuran in 10 ml of dichloromethane. The solution is stirred at room temperature for 16 h and 0.7 g (7.92 mmol) of manganese dioxide is again added. After stirring for 24 h at room temperature, the manganous precipitate is filtered off and the filtrate is concentrated under vacuum. The residue is purified by silica column chromatography (elution solvent: 10% ethyl acetate in cyclohexane). 0.25 g (Yield: 66%) of 2-formyl-3-methyl-7-bromobenzofuran is obtained in the form of a yellow wax.

reactant | 2-hydroxymethyl-3-methyl-7-bromobenzofuran | 1.58 mmol, 0.38 g | OCC=1OC2=C(C1C)C=CC=C2Br | C10H9BrO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 7.92 mmol, 0.7 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 7.92 mmol, 0.7 g | [O-2].[O-2].[Mn+4]
product | 2-formyl-3-methyl-7-bromobenzofuran | 0.25 g, Yield: 66% | C(=O)C=1OC2=C(C1C)C=CC=C2Br | C10H7BrO2
